US04572909
Preparation of Ethyl 4-[2-(N-benzyl-N-methylamino)ethoxy]acetoacetate
Sodium hydride (60% (by weight) in oil, 8 g) was stirred in dry tetrahydrofuran (THF) (100 ml) under nitrogen while 2-(N-benzyl-N-methylamino)ethanol (17 g) was added slowly. The warm mixture was stirred for 1 hour, then kept cool on a water bath at room temperature (20°) while a solution of ethyl 4-chloroacetoacetate (16.5 g) in dry THF (100 ml) was added dropwise over 3.5 hours. The mixture was stirred overnight at room temperature under nitrogen, then quenched with a little ethanol and poured onto ice (100 g) and concentrated hydrochloric acid (30 ml). The THF was removed by evaporation, and the residue washed with light petroleum (b.p. 60°-80°) to remove mineral oil. The residue was basified with solid sodium carbonate and extracted with ethyl acetate (200 ml and 100 ml). The combined extracts were dried (Na2CO3), filtered and evaporated to give the title compound as an oil (30 g), sufficiently pure for further use. N.m.r. spectrum in CDCl 3, δ values: 7.27 (5H,s); 4.12 (2H,q); 4.06 (2H,s); 3.45-3.70 (6H,m); 2.61 (2H,t); 2.25 (3H,s); 1.23 (3H,t).

reactant | Sodium hydride | 8 g | [H-].[Na+]
reactant | 2-(N-benzyl-N-methylamino)ethanol | 17 g | C(C1=CC=CC=C1)N(C)CCO | C10H15NO
reactant | ethyl 4-chloroacetoacetate | 16.5 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 4-[2-(N-benzyl-N-methylamino)ethoxy]acetoacetate | 30 g | C(C1=CC=CC=C1)N(C)CCOCC(CC(=O)OCC)=O | C16H23NO4
